US04189610
To a 500-milliliter jacketed flask equipped with a mechanical stirrer, thermometer, and dropping funnel, and cooled to approximately 2° C. with circulating trichloroethylene thermostated cooling liquid, was charged 43.2 grams (0.40 mole) of anisole and 30.6 grams (0.20 mole) of commercial chloroacetal. To the cooled and stirred solution was added a solution of 80.0 grams (0.82 mole) of concentrated sulfuric acid dissolved in 50 milliliters of glacial acetic acid over a 1.17-hour period (1 hour and 10 minutes) at a rate sufficient to maintain the temperature at less than 15° C. When the addition was complete, the solution was stirred an additional 10 minutes, allowed to warm to 15° C. and poured into 1 liter of an ice/water mixture. The mixture was extracted with three 150-milliliter portions of diethyl ether, washed successively with three 100-milliliter portions of saturated aqueous sodium carbonate and three 100-milliliter portions of cold water, and dried over anhydrous sodium sulfate. Evaporation of the ether in vacuo yielded 55.0 grams (almost quantitative) of crude 1,1-bis(4-methoxyphenyl)-2-chloroethane as a colorless oil.

reactant | trichloroethylene | ClC=C(Cl)Cl | C2HCl3
reactant | anisole | 0.40 mole, 43.2 grams | C1(=CC=CC=C1)OC | C7H8O
reactant | sulfuric acid | 0.82 mole, 80.0 grams | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 50 milliliters | C(C)(=O)O | C2H4O2
product | 1,1-bis(4-methoxyphenyl)-2-chloroethane | COC1=CC=C(C=C1)C(CCl)C1=CC=C(C=C1)OC | C16H17ClO2
